US06673931B2
In an analogous manner to that described in Example 13 (j) by cleavage of the BOC group using a solution of hydrogen chloride in methanol, starting from (3R,4R,5R)-3-imidazol-1-ylmethyl-4-{4-[3-(2-methoxy-benzyloxy)-propoxy]-phenyl}-5-(4-methoxy-naphthalen-2-ylmethoxy)-piperidine-1-carboxylic acid tert-butyl ester there was obtained (3S,4R,5R)-3-imidazol-1-ylmethyl-4-[4-[3-(2-methoxy-benzyloxy)-propoxy]-phenyl]-5-(4-methoxy-naphthalen-2-ylmethoxy)-piperidine dihydrochloride as an amorphous solid; MS: 622 (M+H)+.

reactant | hydrogen chloride | Cl | ClH
reactant | (3R,4R,5R)-3-imidazol-1-ylmethyl-4-{4-[3-(2-methoxy-benzyloxy)-propoxy]-phenyl}-5-(4-methoxy-naphthalen-2-ylmethoxy)-piperidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1C[C@H]([C@@H]([C@H](C1)OCC1=CC2=CC=CC=C2C(=C1)OC)C1=CC=C(C=C1)OCCCOCC1=C(C=CC=C1)OC)CN1C=NC=C1 | C43H51N3O7
solvent | methanol | CO | CH4O
product | (3S,4R,5R)-3-imidazol-1-ylmethyl-4-[4-[3-(2-methoxy-benzyloxy)-propoxy]-phenyl]-5-(4-methoxy-naphthalen-2-ylmethoxy)-piperidine dihydrochloride | Cl.Cl.N1(C=NC=C1)C[C@@H]1CNC[C@@H]([C@H]1C1=CC=C(C=C1)OCCCOCC1=C(C=CC=C1)OC)OCC1=CC2=CC=CC=C2C(=C1)OC | InChI=1S/C38H43N3O5.2ClH/c1-42-35-11-6-4-9-31(35)26-44-18-7-19-45-33-14-12-29(13-15-33)38-32(24-41-17-16-39-27-41)22-40-23-37(38)46-25-28-20-30-8-3-5-10-34(30)36(21-28)43-2;;/h3-6,8-17,20-21,27,32,37-38,40H,7,18-19,22-26H2,1-2H3;2*1H/t32-,37-,38-;;/m0../s1
